US08106086B2
Production of α-hydroxy-2,5-dihydro-5-oxo-1-phenyl-α-trifluoromethyl-3-trifluoromethyl-1H-pyrazole-4-acetic acid methyl ester
To a chloroform solution (5 ml) of 1-phenyl-3-trifluoromethyl-5-pyrazolone (114 mg, 0.5 mmol), methyl trifluoropyruvate (78 mg, 0.5 mmol) was added at room temperature and the mixture was stirred at 80° C. for 2 hours. After removing the solvent under reduced pressure, the title compound was obtained as a colorless solid (172 mg).

reactant | 1-phenyl-3-trifluoromethyl-5-pyrazolone | 0.5 mmol, 114 mg | C1(=CC=CC=C1)N1NC(=CC1=O)C(F)(F)F | C10H7F3N2O
reactant | methyl trifluoropyruvate | 0.5 mmol, 78 mg | FC(C(C(=O)OC)=O)(F)F | C4H3F3O3
solvent | chloroform | 5 ml | C(Cl)(Cl)Cl | CHCl3
product | α-hydroxy-2,5-dihydro-5-oxo-1-phenyl-α-trifluoromethyl-3-trifluoromethyl-1H-pyrazole-4-acetic acid methyl ester | COC(C(C1=C(NN(C1=O)C1=CC=CC=C1)C(F)(F)F)(C(F)(F)F)O)=O | C14H10F6N2O4
